US04935431
(b) 4-Methoxy-3-thiophenecarboxylic acid hydrazide
Methyl 4-methoxy-3-thiophenecarboxylate (50.8 g, 0.295 mol) was refluxed with hydrazine hydrate (30 ml) in methanol (250 ml) overnight. The solvent was evaporated and the residue was diluted with water (300 ml) and extracted with dichloromethane (5×100 ml). The dichloromethane extracts were dried over sodium sulfate, filtered and evaporated under reduced pressure to give the title compound as an off white solid, 49.5 g, m.p. 91°-92°.

reactant | Methyl 4-methoxy-3-thiophenecarboxylate | 0.295 mol, 50.8 g | COC=1C(=CSC1)C(=O)OC | C7H8O3S
reactant | hydrazine hydrate | 30 ml | O.NN
solvent | methanol | 250 ml | CO | CH4O
product | 4-Methoxy-3-thiophenecarboxylic acid hydrazide | COC=1C(=CSC1)C(=O)NN | C6H8N2O2S
